US06884821B1
1 g of phenyl acetylene and 1.48 g of ethyl 2-chloro-2-hydroxyiminoacetate were dissolved in 20 ml chloroform, and 1.4 g of potassium carbonate was added thereto, and the mixture was stirred at room temperature for 16 hours. Water and aqueous ammonium chloride solution were added to the reaction solution, followed by extracting with ethyl acetate. The organic layer was washed with brine, dried over anhydrous magnesium sulfate and evaporated. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=9:1), to give 1.2 g of ethyl 5-phenyl-4-isoxazole carboxylate.

reactant | phenyl acetylene | 1 g | C1(=CC=CC=C1)C#C | C8H6
reactant | ethyl 2-chloro-2-hydroxyiminoacetate | 1.48 g | ClC(C(=O)OCC)=NO | C4H6ClNO3
reactant | potassium carbonate | 1.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
solvent | Water | O | H2O
product | ethyl 5-phenyl-4-isoxazole carboxylate | 1.2 g | C1(=CC=CC=C1)C1=C(C=NO1)C(=O)OCC | C12H11NO3
